US04044017
1.4 g of (Nα,Nε -bisbenzyloxycarbonyl-L-lysyl)-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide were dissolved in 30 ml of dry dichloromethane, cooled to approximately -70° C and treated, while stirring, with 2 ml of pre-cooled boron trichloride. The mixture was stirred under anhydrous conditions at approximately -70° C for 30 minutes and then allowed to warm slowly to room temperature over a period of 2 hours. The mixture was evaporated to dryness in vacuo, the residue re-dissolved in 30 ml of fresh dry dichloromethane and the solution again evaporated to dryness in vacuo. This operation was repeated twice using dichloromethane and then four times using methanol in order to remove the residual boron compounds as volatile trimethyl borate. A concentrated methanolic solution of the residue was added slowly to 750 ml of anhydrous diethyl ether with vigorous stirring, the solid hygroscopic product collected by filtration and dried in vacuo. This product was dissolved in 30 ml of water, shaken with three 20 ml portions of ethyl acetate to remove traces of 5-chloro-2-methylaminobenzophenone and the aqueous solution lyophilised to give 0.7 g of L-lysyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide dihydrochloride which was identical to that described in part (i) of this Example.

reactant | (Nα,Nε -bisbenzyloxycarbonyl-L-lysyl)-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide | 1.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)NCC(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C38H39ClN4O7
reactant | boron trichloride | 2 ml | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | L-lysyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide dihydrochloride | 0.7 g | Cl.Cl.N[C@@H](CCCCN)C(=O)NCC(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | InChI=1S/C22H27ClN4O3.2ClH/c1-27(20(28)14-26-22(30)18(25)9-5-6-12-24)19-11-10-16(23)13-17(19)21(29)15-7-3-2-4-8-15;;/h2-4,7-8,10-11,13,18H,5-6,9,12,14,24-25H2,1H3,(H,26,30);2*1H/t18-;;/m0../s1
